US04946960
(iii) Conversion of the benzoic acid
To an ice cooled solution of 4-(4'benzylidene benzoyl)-benzoic acid (1.40 g) in THF was added a solution of 1,1'-carbonyldiimidazole (0.7 g) in THF (10 ml), with stirring. After 2 hours, a solution of t-butylhydroperoxide (0.5 g of 80%) in THF (10 ml) was added slowly. Stirring was continued for a further hour at 0° C. after which the solution was filtered and the solvent removed. The resulting oil was purified by column chromatography (silica) using dichloromethane as eluant. The resultant colourless oil solidified on overnight refrigeration to give a product having a melting point of 72°-76° C.

reactant | 4-(4'benzylidene benzoyl)-benzoic acid | 1.40 g | C(C1=CC=CC=C1)=C1CC=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=C1 | C21H16O3
reactant | 1,1'-carbonyldiimidazole | 0.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | t-butylhydroperoxide | 0.5 g | C(C)(C)(C)OO | C4H10O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
